US07977331B1
A solution of methyl 3-cyclohexyl-2-{2-[2-(tetrahydropyran-2-yloxy)ethyl]phenyl}-1H-indole-6-carboxylate (2.21 g, 4.80 mmol) in tetrahydrofuran (10 ml), methanol (10 ml) and 6N hydrochloric acid (20 ml) was stirred at room temperature for 2 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1-2:1) to give methyl 3-cyclohexyl-2-[2-(2-hydroxyethyl)phenyl]-1H-indole-6-carboxylate (1.20 g, yield 66.7%).

reactant | methyl 3-cyclohexyl-2-{2-[2-(tetrahydropyran-2-yloxy)ethyl]phenyl}-1H-indole-6-carboxylate | 4.80 mmol, 2.21 g | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)CCOC1OCCCC1 | C29H35NO4
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | methyl 3-cyclohexyl-2-[2-(2-hydroxyethyl)phenyl]-1H-indole-6-carboxylate | 1.20 g, yield 66.7% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)CCO | C24H27NO3
